US08008525B2
Ethyl 3-[3,5-difluoro-4-(2-naphthylmethoxy)phenyl]propanoate
Ethyl 3,5-difluoro-4-hydroxybenzenepropanoate (200 mg, 0.87 mmol) was dissolved in DMF (10 mL). 2-(Bromomethyl)naphthalene (212 mg, 0.96 mmol) and potassium carbonate (132 mg, 0.96 mmol) were added thereto, and then the mixture was stirred at 80° C. for 4 hours. To the reaction solution was added water, and the reaction mixture was extracted with ethyl acetate. The extract was dried, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 80:20) to give the title compound (298 mg, yield 93%).

reactant | Ethyl 3,5-difluoro-4-hydroxybenzenepropanoate | 0.87 mmol, 200 mg | FC=1C=C(C=C(C1O)F)CCC(=O)OCC | C11H12F2O3
reactant | 2-(Bromomethyl)naphthalene | 0.96 mmol, 212 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | 0.96 mmol, 132 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-[3,5-difluoro-4-(2-naphthylmethoxy)phenyl]propanoate | 298 mg, yield 93% | FC=1C=C(C=C(C1OCC1=CC2=CC=CC=C2C=C1)F)CCC(=O)OCC | C22H20F2O3
